US04703046
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.) was treated with conc. hydrochloric acid (2 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 1.2 g.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.2 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC)Br | C17H14BrN7O6S4
reactant | hydrochloric acid | 2 ml | Cl | ClH
product | 3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride | 1.2 g | Cl.S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2)=O | InChI=1S/C10H9N3O3S3.ClH/c14-6-1-7-13(6)8(9(15)16)5(2-17-7)3-18-10-12-11-4-19-10;/h4,7H,1-3H2,(H,15,16);1H/t7-;/m1./s1
